US07414061B2
4-[1-(3,5-Difluoro-phenyl)-1H-imidazol-4-yl]-5-methyl-3-phenyl-isoxazole
As described for Example 3, 4-(1H-imidazol-4-yl)-5-methyl-3-phenyl-isoxazole (112.6 mg, 0.5 mmol) was converted, using 3,5-difluorophenylboronic acid instead of 4-fluorophenylboronic acid, to the title compound (51 mg, 30%) which was obtained as a white solid (ESI). MS: m/e=337.9 [M+H]+.

reactant | 4-(1H-imidazol-4-yl)-5-methyl-3-phenyl-isoxazole | 0.5 mmol, 112.6 mg | N1C=NC(=C1)C=1C(=NOC1C)C1=CC=CC=C1 | C13H11N3O
reactant | 3,5-difluorophenylboronic acid | FC=1C=C(C=C(C1)F)B(O)O | C6H5BF2O2
product | 4-[1-(3,5-Difluoro-phenyl)-1H-imidazol-4-yl]-5-methyl-3-phenyl-isoxazole | 51 mg, 30% | FC=1C=C(C=C(C1)F)N1C=NC(=C1)C=1C(=NOC1C)C1=CC=CC=C1 | C19H13F2N3O
